US06716842B2
3-{2-Hydroxy-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-acrylic Acid Ethyl Ester
A solution of 7-hydroxycoumarin (3.39 g, 20.9 mmol), 5-methyl-2-phenyl-oxazol-4-yl)-ethanol (5.10 g, 25.1 mmol), and triphenylphosphine (6.58 g, 25.1 mmol) in dry tetrahydrofuran (100 mL) was purged with nitrogen and cooled in an ice bath. Diethyl azodicarboxylate (4.9 mL, 31.4 mmol) was added dropwise over 2 minutes. The reaction was allowed to warm to ambient temperature over 18 hours. The reaction mixture was concentrated under reduced pressure and partitioned between ethyl acetate and 5% NaHCO3. The organic layer was washed with 5% NaHCO3, water, and brine and dried over anhydrous Na2SO4. The solvent was evaporated under reduced pressure, and the residue was crystallized from chloroform to provide 7.35 g (89%) of the title compound. 1H NMR (400 MHz, CDCl3) δ 1.28 (3H, q, J=7 Hz), 2.38 (3H, s), 3.01 (2H, t, J=7 Hz), 4.20 (2H, q, J=7 Hz), 4.31 (2H, t, J=7 Hz), 6.37 (1H, bs), 6.83 (2H, m), 7.38 (1H, m), 7.41 (4H, m), 7.61 (1H, m), 7.98 (2H, m).

reactant | 7-hydroxycoumarin | 20.9 mmol, 3.39 g | OC1=CC=C2C=CC(OC2=C1)=O | C9H6O3
reactant | ethanol | 25.1 mmol, 5.10 g | C(C)O | C2H6O
reactant | triphenylphosphine | 25.1 mmol, 6.58 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diethyl azodicarboxylate | 31.4 mmol, 4.9 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 3-{2-Hydroxy-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-acrylic Acid Ethyl Ester | 7.35 g, 89% | C(C)OC(C=CC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)O)=O | C23H23NO5
